US07297795B2
A mixture of 2-(3-chloropropoxy)-1-methoxy-4-nitrobenzene (2.15 g, 8.77 mmol) and tin (II) chloride dihydrate (6.1 g, 27.11 mmol) in 50 mL of ethyl acetate was heated at reflux for 6.5 hours. The reaction mixture was cooled to room temperature and poured into 250 mL of saturated aqueous sodium bicarbonate. After stirring for 40 minutes, additional ethyl acetate was added and the layers were separated. The organic layer was washed with saturated sodium bicarbonate and water then dried over magnesium sulfate and filtered. The solution was concentrated in vacuo and purified by flash column chromatography, eluting with 1:1 hexane: ethyl acetate, to provide 753 mg of 3-(3-chloropropoxy)-4-methoxyaniline as a dark brown oil; 1H NMR (400 MHz, DMSO-d6) δ 2.13 (m, 2H), 3.62 (s, 3H), 3.78 (t, J=6 Hz, 2H), 3.96 (t, J=6 Hz, 2H), 4.77 (br s, 2H), 6.10 (dd, J=8, 2 Hz, 1H), 6.29 (d, J=2 Hz, 1H), 6.66 (d, J=8 Hz, 1H); MS (ES) m/z216.1, 218.1 (M+H)+.

reactant | 2-(3-chloropropoxy)-1-methoxy-4-nitrobenzene | 8.77 mmol, 2.15 g | ClCCCOC1=C(C=CC(=C1)[N+](=O)[O-])OC | C10H12ClNO4
reactant | tin (II) chloride dihydrate | 27.11 mmol, 6.1 g | O.O.[Sn](Cl)Cl
reactant | sodium bicarbonate | 250 mL | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 3-(3-chloropropoxy)-4-methoxyaniline | 753 mg | ClCCCOC=1C=C(N)C=CC1OC | C10H14ClNO2
